US04864021
Preparation of 2'-deoxy-5-fluoro-3'-O-(2,4,6-trimethylbenzyl)uridine
A 1.66 g quantity of 2,4,6-trimethylbenzyl chloride was added to a solution of 4.00 g of 2'-deoxy-5-fluoro-5'-O-trityluridine, 2.30 g of potassium hydroxide and 1.47 g of sodium iodide in 50 ml of dried dioxane. The mixture was stirred at 60° C. for 3 hours. The solvent was distilled off, and ethyl acetate and water were added to the residue. The ethyl acetate layer was washed with water and dried over anhydrous sodium sulfate. The ethyl acetate was distilled off and the residue was dissolved in 50 ml of a 80% solution of acetic acid. The resulting solution was left to stand at 70° C. for 2 hours. The reaction mixture was concentrated and water was added to the concentrate. The mixture was rendered weakly basic with an aqueous solution of sodium hydroxide and washed with ether. The aqueous layer was made weakly acidic with a 6N solution of hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous sodium sulfate and concentrated. Ether was added to the concentrate to deposit solids and the solids were recrystallized from ethanol, giving 1.69 g of the title compound in a yield of 55%.

reactant | 2,4,6-trimethylbenzyl chloride | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
reactant | 2'-deoxy-5-fluoro-5'-O-trityluridine | 4.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C28H25FN2O5
reactant | potassium hydroxide | 2.30 g | [OH-].[K+]
reactant | sodium iodide | 1.47 g | [I-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2'-deoxy-5-fluoro-3'-O-(2,4,6-trimethylbenzyl)uridine | 1.69 g, yield of 55% | FC=1C(NC(N([C@H]2C[C@H](OCC3=C(C=C(C=C3C)C)C)[C@@H](CO)O2)C1)=O)=O | C19H23FN2O5
